US07618978B2
4-(4-Methoxy-phenyl)-3-oxo-piperazine-1-carboxylic acid tert-butyl ester
Charge in a pressure tube copper iodide (42 mg, 0.22 mmol), potassium phosphate (1.6 g, 7.5 mmol), trans-1,2-diaminocyclohexane (0.053 ml, 0.44 mmol), p-methoxyphenyl iodide (868 mg, 3.7 mmol) and 3-oxo-piperazine-1-carboxylic acid tert-butyl ester (1.05 g, 4.7 mmol). Purge with nitrogen and add 6 ml of dry toluene. Cap the tube and stir at 100° C. overnight. Filter through celite eluting with EtOAc and concentrate. Purify in a silica gel cartridge (20 g) eluting with EtOAc/hexane 1:1 followed by 100% EtOAc to give the title compound as a white solid (1.03 g, 90%).

reactant | potassium phosphate | 7.5 mmol, 1.6 g | P(=O)([O-])([O-])[O-].[K+].[K+].[K+]
reactant | trans-1,2-diaminocyclohexane | 0.44 mmol, 0.053 ml | N[C@H]1[C@@H](CCCC1)N | C6H14N2
reactant | p-methoxyphenyl iodide | 3.7 mmol, 868 mg | COC1=CC=C(C=C1)I | C7H7IO
reactant | 3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 4.7 mmol, 1.05 g | C(C)(C)(C)OC(=O)N1CC(NCC1)=O | C9H16N2O3
catalyst | copper iodide | 0.22 mmol, 42 mg | [Cu](I)I
product | 4-(4-Methoxy-phenyl)-3-oxo-piperazine-1-carboxylic acid tert-butyl ester | 1.03 g, 90% | C(C)(C)(C)OC(=O)N1CC(N(CC1)C1=CC=C(C=C1)OC)=O | C16H22N2O4
